US09260416B2
Step 4: [6-(6-Chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: [6-(2-oxo-propylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester and 3-chloro-2-fluorophenylhydrazine hydrochloride.

reactant | [6-(2-oxo-propylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)SCC(C)=O)=O | C12H15NO3S
reactant | 3-chloro-2-fluorophenylhydrazine hydrochloride | Cl.ClC=1C(=C(C=CC1)NN)F
product | [6-(6-Chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)SC1=C(NC2=C(C(=CC=C12)Cl)F)C)=O | C18H16ClFN2O2S
